US04831151
1.9 g (5.8 mmol) of 1-amino-2-ethyl-3-(3,4,5-trimethoxybenzyl)imidazolium chloride are dissolved in 38 ml of glacial acetic acid, whereupon the solution is treated with 0.86 g (5.8 mmol) of p-dimethylaminobenzaldehyde, stirred at room temperature for 52 hours and then evaporated. The product is recrystallized from ethanol/ether. There is obtained 2-ethyl-1-[[p-(dimethylamino)benzylidene]amino]-3-(3,4,5-trimethyoxybenzyl)imidazolium chloride of melting point 211°.

reactant | 1-amino-2-ethyl-3-(3,4,5-trimethoxybenzyl)imidazolium chloride | 5.8 mmol, 1.9 g | [Cl-].N[N+]1=C(N(C=C1)CC1=CC(=C(C(=C1)OC)OC)OC)CC
reactant | p-dimethylaminobenzaldehyde | 5.8 mmol, 0.86 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | acetic acid | 38 ml | C(C)(=O)O | C2H4O2
product | 2-ethyl-1-[[p-(dimethylamino)benzylidene]amino]-3-(3,4,5-trimethyoxybenzyl)imidazolium chloride | [Cl-].C(C)C1=[N+](C=CN1CC1=CC(=C(C(=C1)OC)OC)OC)N=CC1=CC=C(C=C1)N(C)C | InChI=1S/C24H31N4O3.ClH/c1-7-23-27(17-19-14-21(29-4)24(31-6)22(15-19)30-5)12-13-28(23)25-16-18-8-10-20(11-9-18)26(2)3;/h8-16H,7,17H2,1-6H3;1H/q+1;/p-1
